US06486155B1
A mixture of a solution of 6,7-dimethoxy-4-(3,4,5-trimethoxyphenyl)-isocoumarin-3-carboxylic acid (the compound obtained in Reference Example 50) (2.4 g) in methanol (50 ml) and a 5.5M solution of ammonia in methanol (50 ml) is stirred at room temperature overnight. The reaction solution is concentrated under reduced pressure to remove the ammonia, and further the solvent is distilled off. The residue thus obtained is extracted with chloroform, and the extract is washed with water, dried, and concentrated under reduced pressure. To the residue is added a 4M solution of hydrogen chloride in ethyl acetate (30 ml), and the mixture is stirred at room temperature overnight. The mixture is concentrated under reduced pressure, and the resulting residue is extracted with chloroform. The extract is washed with water, dried, and concentrated under reduced pressure to give 3-carboxy-6,7-dimethoxy-4-(3,4,5-trimethoxyphenyl)-1(2H)-isoquinolinone (1.89 g) as listed in Table 8.

reactant | 6,7-dimethoxy-4-(3,4,5-trimethoxyphenyl)-isocoumarin-3-carboxylic acid | COC=1C=C2C(=C(OC(=O)C2=CC1OC)C(=O)O)C1=CC(=C(C(=C1)OC)OC)OC | C21H20O9
reactant | ammonia | N | H3N
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 3-carboxy-6,7-dimethoxy-4-(3,4,5-trimethoxyphenyl)-1(2H)-isoquinolinone | 1.89 g | C(=O)(O)C=1NC(C2=CC(=C(C=C2C1C1=CC(=C(C(=C1)OC)OC)OC)OC)OC)=O | C21H21NO8
